US03950380
A solution of 3-amino-4-phenyl-5-sulfamylbenzoic acid (1.46 g) and n-butyl iodide (1.5 ml) in n-butanol (20 ml) is refluxed for 3-4 days under such conditions, that the water formed during the reaction is separated. After 12, 24, 36 and 48 hours, additional amounts of n-butyl iodide (each time 0.75 ml) are added. The resulting solution is evaporated in vacuo, and the obtained crude n-butyl 3-n-butylamino-4-phenyl-5-sulfamylbenzoate is saponified by heating with 2 N sodium hydroxide (20 ml) for 30 minutes. After cooling, the resulting solution is acidified with 4 N hydrochloric acid (12 ml) to precipitate 3-n-butylamino-4-phenyl-5-sulfamylbenzoic acid, which is collected by filtration, washed with water and dried. After recrystallization from aqueous ethanol, the acid is obtained with a melting point of 134°-136° C.

reactant | 3-amino-4-phenyl-5-sulfamylbenzoic acid | 1.46 g | NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C13H12N2O4S
reactant | n-butyl iodide | 1.5 ml | C(CCC)I | C4H9I
reactant | water | O | H2O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | n-butyl 3-n-butylamino-4-phenyl-5-sulfamylbenzoate | C(CCC)NC=1C=C(C(=O)OCCCC)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C21H28N2O4S
